US05155122
3-[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl-1,2,4-oxadiazol-5(4H)-one
A mixture of 1.9 g (0.005 mole) of 3-[3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]phenyl]-1,2,4-oxadiazol-5(4H)-one and 5.7 g (0.025 mole) of zinc bromide in dichloromethane (10 ml) is stirred vigorously at room temperature for three hours. The dichloromethane is then carefully decanted and the white solid is washed with additional dichloromethane (2×50 ml). The combined organic layers are washed with 10% sodium bicarbonate (2×50 ml), saturated sodium chloride (2×50 ml) and dried (anhydrous magnesium sulfate). Concentration leaves a solid which is recrystallized from ethyl acetate and hexane giving 0.7 g (48%) of 3-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-1,2,4-oxadiazol-5(4H)-one, mp 189°-191° C.

reactant | 3-[3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]phenyl]-1,2,4-oxadiazol-5(4H)-one | 0.005 mole, 1.9 g | CC(C)(C)C=1C=C(C=C(C1OCOCCOC)C(C)(C)C)C1=NOC(N1)=O | C20H30N2O5
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | zinc bromide | 0.025 mole, 5.7 g | [Br-].[Zn+2].[Br-]
product | 3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl-1,2,4-oxadiazol-5(4H)-one | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=NOC(N1)=O | C16H22N2O3
